US05100654
2-Hydroxy-5-Formylbenzylphosphonic Acid Diethyl Ester (2)
0.1 mole 4-Hydroxy-3-chloromethylbenzaldehyde was stirred in 75ml acetonitrile and 0.1 mole triethyl phosphite was added dropwise into the stirring suspension. After all the triethyl phosphite had been added, the reaction was refluxed for 4 hours. The reaction was then cooled to room temperature. The reaction solution was then filtered and the acetonitrile was removed on a rotary evaporator leaving behind a solid. This was recrystallized from THF:hexanes in a -20° C. freezer. The product was isolated on a buchner funnel and washed with -20° C. THF. mp 88°-88.5° C.

reactant | 4-Hydroxy-3-chloromethylbenzaldehyde | 0.1 mole | OC1=C(C=C(C=O)C=C1)CCl | C8H7ClO2
reactant | triethyl phosphite | 0.1 mole | P(OCC)(OCC)OCC | C6H15O3P
solvent | acetonitrile | 75ml | C(C)#N | C2H3N
product | 2-Hydroxy-5-Formylbenzylphosphonic Acid Diethyl Ester | C(C)OP(OCC)(=O)CC1=C(C=CC(=C1)C=O)O | C12H17O5P
